US07320992B2
2-Hydroxy-6-methyl-benzoic acid ethyl ester (4.046 g), NBS (4.786 g), and AIBN (1.134 g) were weighed into a round-bottom flask equipped with a reflux condenser. CCl4 (40 mL) was added and the mixture was heated at reflux for 2 h. After cooling to RT, solid was removed by filtration and the filtrate was concentrated to give a yellow oil as crude, which solidified upon standing. The crude was purified by silica gel chromatography (300 g, 0-5% EtOAc/hexanes) to afford 2-bromomethyl-6-hydroxy-benzoic acid ethyl ester as a white solid.

reactant | 2-Hydroxy-6-methyl-benzoic acid ethyl ester | 4.046 g | C(C)OC(C1=C(C=CC=C1C)O)=O | C10H12O3
reactant | NBS | 4.786 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 1.134 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 40 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-bromomethyl-6-hydroxy-benzoic acid ethyl ester | C(C)OC(C1=C(C=CC=C1O)CBr)=O | C10H11BrO3
